US06706725B1
f) {5-[5-(2-Ethyl-[1,3]dioxolan-2-yl)-2-thienylmethoxy]-2-hydroxymethylphenyl}methanol
12.7 g (31.5 mmol) of dimethyl 4-[5-(2-ethyl-[1,3]dioxolan-2-yl)-2-thienylmethoxy]phthalate are dissolved in 500 mL of anhydrous ethyl ether. 2.87 g (75.7 mmol) of lithium aluminium hydride are added and the reaction medium is stirred at 0° C. for 1 hour. 2.9 mL of water are then added slowly, followed by 2.9 mL of aqueous 15% sodium hydroxide, and then 8.7 mL of water are also added slowly. After stirring for 20 minutes, the medium is then filtered. The filtrate is concentrated under reduced pressure and the residue obtained is then purified by chromatography on a column of silica. A white solid (m.p.: 78-80° C.) is obtained (m=8 g; Y=72%).

reactant | dimethyl 4-[5-(2-ethyl-[1,3]dioxolan-2-yl)-2-thienylmethoxy]phthalate | 31.5 mmol, 12.7 g | C(C)C1(OCCO1)C1=CC=C(S1)COC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C20H22O7S
reactant | lithium aluminium hydride | 75.7 mmol, 2.87 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 2.9 mL | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 8.7 mL | O | H2O
solvent | ethyl ether | 500 mL | C(C)OCC | C4H10O
product | {5-[5-(2-Ethyl-[1,3]dioxolan-2-yl)-2-thienylmethoxy]-2-hydroxymethylphenyl}methanol | C(C)C1(OCCO1)C1=CC=C(S1)COC=1C=CC(=C(C1)CO)CO | C18H22O5S
